US09108939B2
C: tert-Butyl 4-(2,5-difluoro-4-nitrobenzylidene)piperidine-1-carboxylate
Diethyl 2,5-difluoro-4-nitrobenzylphosphonate (0.67 g, 2.17 mmol) and tert-butyl 4-oxopiperidine-1-carboxylate (0.43 g, 2.17 mmol) were stirred in tetrahydrofuran (8.3 mL) and cooled in an ice bath. Sodium hydride (0.133 g, 2.82 mmol) was added then the reaction was taken off ice bath and stirred for 4 hours at room temperature. The reaction was quenched with water and extracted with dichloromethane, dried (magnesium sulphate), filtered and evaporated under reduced pressure. The crude material was purified by silica chromatography using a dichloromethane solvent system. The solid obtained was triturated with heptane to give the title compound as a yellow solid (0.24 g). 1H NMR (CDCl3, 400 MHz): δ 7.80 (dd, 1H), 7.12 (dd, 1H), 6.24 (s, 1H), 3.54 (t, 2H), 3.45 (t, 2H), 2.40 (t, 2H), 2.56 (t, 2H), 1.48 (s, 9H)

reactant | Diethyl 2,5-difluoro-4-nitrobenzylphosphonate | 2.17 mmol, 0.67 g | FC1=C(CP(OCC)(OCC)=O)C=C(C(=C1)[N+](=O)[O-])F | C11H14F2NO5P
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 2.17 mmol, 0.43 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | Sodium hydride | 2.82 mmol, 0.133 g | [H-].[Na+]
solvent | tetrahydrofuran | 8.3 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-(2,5-difluoro-4-nitrobenzylidene)piperidine-1-carboxylate | 0.24 g | FC1=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=C(C(=C1)[N+](=O)[O-])F | C17H20F2N2O4
